US05486617
5.00 g (39.42 mmol) of glycine methyl ester hydrochloride was added in a single portion to a solution of 1.59 g (39.42 mmol) of sodium hydroxide in 13 ml of methanol, at 0° C. The temperature dropped to -10° C. Then, the mixture was stirred for 15 minutes. During this time, the temperature rose again to 0° C. 4.73 g (39.42 mmol) of methyl pentanimidate was added, and the mixture was stirred at room temperature for 3 hours. 9.00 g (43.36 mmol) of N,N-dimethylformamide dibutyl acetal then was added, during the course of 5 minutes, and the reaction mixture was stirred for a further 3 hours. Then, the solvent was removed on the Rotavapor, and the residue was treated with 40 ml of CH2Cl2 and 15 ml of water. After phase separation, the organic phase was washed with 10 ml of water. The organic phase was dried (MgSO4), filtered and concentrated on the Rotavapor, and the residue was dried in a high vacuum. 6.92 g of 2-butyl-4-dimethylaminomethylene-2-imidazolin-5-one was obtained; the product had a content of about 80 percent according to H-NMR. This corresponds to a yield of about 72 percent, based on the methyl pentanimidate.

reactant | glycine methyl ester hydrochloride | 39.42 mmol, 5.00 g | Cl.COC(CN)=O
reactant | sodium hydroxide | 39.42 mmol, 1.59 g | [OH-].[Na+]
reactant | methyl pentanimidate | 39.42 mmol, 4.73 g | C(CCCC)(OC)=N | C6H13NO
reactant | N,N-dimethylformamide dibutyl acetal | 43.36 mmol, 9.00 g | C(CCC)OC(N(C)C)OCCCC | C11H25NO2
solvent | methanol | 13 ml | CO | CH4O
product | 2-butyl-4-dimethylaminomethylene-2-imidazolin-5-one | 6.92 g, yield of about 72 percent | C(CCC)C=1NC(C(N1)=CN(C)C)=O | C10H17N3O
